US07465815B2
1-(4-Isopropylphenyl)-1-(2-methoxyphenyl)-2-methylpropan-1-ol
To a solution of 2-bromoanisole (5.0 g, 26.7 mmol) in THF (50 mL) was added n-butyllithium (1.6 M, 18 mL, 29 mmol) at −78° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction solution was added 1-(4-isopropylphenyl)-2-methylpropan-1-one (5.70 g, 30.0 mmol), and the mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture which was extracted with ethyl acetate, and the combined organic layer was washed with water, dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain 3.4 g (yield 43%) of the title compound. Melting point: 85-86° C. (methanol).

reactant | 2-bromoanisole | 26.7 mmol, 5.0 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | 29 mmol, 1.6 M, 18 mL | C(CCC)[Li]
reactant | 1-(4-isopropylphenyl)-2-methylpropan-1-one | 30.0 mmol, 5.70 g | C(C)(C)C1=CC=C(C=C1)C(C(C)C)=O | C13H18O
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-Isopropylphenyl)-1-(2-methoxyphenyl)-2-methylpropan-1-ol | 3.4 g, yield 43% | C(C)(C)C1=CC=C(C=C1)C(C(C)C)(O)C1=C(C=CC=C1)OC | C20H26O2
